US06921821B2
4-{1-Benzooxazol-5-ylmethyl-piperidin-4-ylamino)-6-chloro-chromen-2-one (II-95)
6-Chloro-4-(piperidin-4-ylamino)-chromen-2-one and benzooxazole-5-carbaldehyde were allowed to react in a manner analogous to that previously described to give the title compound. 1H NMR (500 MHz, DMSO-D6) δ ppm 1.66 (m, 2H) 1.91 (m, 2H) 2.14 (m, J=10.29 Hz, 2H) 2.85 (m, 2H) 3.50 (m, 1H) 3.63 (s, 2H) 5.28 (s, 1H) 7.29 (m, 1H) 7.33 (m, 1H) 7.41 (m, 1H) 7.62 (m, 1H) 7.71 (m, 2H) 8.32 (m, 1H) 8.71 (s, 1H); MS (DCI/NH3) m/z 410 [M+H9 +.

reactant | 6-Chloro-4-(piperidin-4-ylamino)-chromen-2-one | ClC=1C=C2C(=CC(OC2=CC1)=O)NC1CCNCC1 | C14H15ClN2O2
reactant | benzooxazole-5-carbaldehyde | O1C=NC2=C1C=CC(=C2)C=O | C8H5NO2
product | 4-{1-Benzooxazol-5-ylmethyl-piperidin-4-ylamino)-6-chloro-chromen-2-one | O1C=NC2=C1C=CC(=C2)CN2CCC(CC2)NC2=CC(OC1=CC=C(C=C21)Cl)=O | C22H20ClN3O3
